* **********************************************************

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL GND:G IN0 OUT0 VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

MT_I0	OUT0	IN0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2	VDD	IN0	OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	

**********************************************************************
**  End of device list
**********************************************************************
