* LATCHVER2

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL CLK D GND:G Q QB VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

M1	5	12	Q	Q	PMOS	L=4e-007	W=2.4e-006	
M2	VDD	5	QB	Q	PMOS	L=4e-007	W=2.4e-006	
M3	VDD	QB	Q	Q	PMOS	L=4e-007	W=2.4e-006	
M4	D	12	5	GND	NMOS	L=4e-007	W=1.2e-006	
M5	GND	5	QB	GND	NMOS	L=4e-007	W=1.2e-006	
M6	GND	QB	Q	GND	NMOS	L=4e-007	W=1.2e-006	

**********************************************************************
**  End of device list
**********************************************************************
