***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\latchver2._00\TOP_p1.net

.GLOBAL	CLK D GND Q QB 
.GLOBAL	VDD 

INV	QB 5	0	0
INV	Q QB	0	0
M4	D	12	5	GND	NMOS	W=1.20U L=400.00N	0	0
M1	5	12	Q	Q	PMOS	W=2.40U L=400.00N	0	0
