***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\latchver2._00\TOP_p2.net

.GLOBAL	CLK D GND Q QB 
.GLOBAL	VDD 

INV	QB I4_NNG	0	0
INV	Q QB	0	0
MT_I3	I4_NNG	CLK	D	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I0	I4_NNG	CLK	Q	Q	PMOS	W=2.40U L=400.00N	0	0
